US08710163B2
tert-Butyl phenyl{[1-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-naphthyl]methyl}carbamate (4a).
To a suspension of 17.0 g (88.1 mmol) of tert-butyl phenylcarbamate in 150 ml of hexanes 35.2 ml (88.1 mmol) of 2.5 M nBuLi in hexanes was slowly added at gentle reflux for ca. 15 min. This mixture was stirred for additional 30 minutes and then evaporated to dryness. The resulting white powder was added to a solution of 30.6 g (88.1 mmol) of 2-[2-(bromomethyl)-1-naphthyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane in 300 ml of DMF. This mixture was stirred for 20 minutes at 75° C. and then poured into 1200 cm3 of cold water. The product was extracted with 3×200 ml of ethyl acetate. The combined organic extract was washed by 2×300 ml of water, dried over MgSO4, and then evaporated to dryness. The crude product was purified by flash chromatography on silica gel 60 (40-63 um, eluent: hexanes-ethyl acetate=20:1, vol. then 10:1, vol.). Yield 28.0 g (69%) of yellowish oil. Anal. calc. for C28H34BNO4: C, 73.21; H, 7.46; N, 3.05. Found: C, 73.12; H, 7.62; N, 3.24. 1H NMR (CDCl3): 8.19 (m, 1H, 8-H in naphthyl), 7.85 (d, J=8.6 Hz, 1H, 4-H in naphthyl), 7.77 (m, 1H, 5-H in naphthyl), 7.60 (d, J=8.6 Hz, 1H, 3-H in naphthyl), 7.45 (m, 1H, 7-H in naphthyl), 7.40 (m, 1H, 6-H in naphthyl), 7.20 (m, 2H, 3,5-H in Ph), 7.13 (m,\2H, 2,6-H in Ph), 7.08 (m, 1H, 4-H in Ph), 5.21 (s, 2H, CH2N), 1.42 (s, 9H, tBu), 1.38 (s, 12H, CMe2CMe2).

reactant | tert-butyl phenylcarbamate | 88.1 mmol, 17.0 g | C1(=CC=CC=C1)NC(OC(C)(C)C)=O | C11H15NO2
reactant | nBuLi | 2.5 M | [Li]CCCC
reactant | 2-[2-(bromomethyl)-1-naphthyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 88.1 mmol, 30.6 g | BrCC1=C(C2=CC=CC=C2C=C1)B1OC(C(O1)(C)C)(C)C | C17H20BBrO2
reactant | water | 1200 cm3 | O | H2O
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | tert-Butyl phenyl{[1-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-naphthyl]methyl}carbamate | C1(=CC=CC=C1)N(C(OC(C)(C)C)=O)CC1=C(C2=CC=CC=C2C=C1)B1OC(C(O1)(C)C)(C)C | C28H34BNO4
